** sch_path: /foss/designs/Chipathon-2026-OnChipSAR/designs/sar_adc/dac/rdac/xschem/rdac.sch
.subckt rdac VCM VRX[1] VRX[0] VRY[1] VRY[0] VRP VRN VSS
*.PININFO VRN:I VRP:I VCM:B VRY[1:0]:B VRX[1:0]:B VSS:B
XRN0 VRY[0] VCM VSS ppolyf_u_1k r_width=2e-6 r_length=3e-6
XRN1 VRY[1] VRY[0] VSS ppolyf_u_1k r_width=2e-6 r_length=3e-6
XRN2 net1 VRY[1] VSS ppolyf_u_1k r_width=2e-6 r_length=3e-6
XRN3 VRN net1 VSS ppolyf_u_1k r_width=2e-6 r_length=3e-6
XRP0 VRX[0] VCM VSS ppolyf_u_1k r_width=2e-6 r_length=3e-6
XRP1 VRX[1] VRX[0] VSS ppolyf_u_1k r_width=2e-6 r_length=3e-6
XRP2 net2 VRX[1] VSS ppolyf_u_1k r_width=2e-6 r_length=3e-6
XRP3 VRP net2 VSS ppolyf_u_1k r_width=2e-6 r_length=3e-6
XRD1 VSS VSS VSS ppolyf_u_1k r_width=0.8e-6 r_length=3e-6 m=4
XRD2 VSS VSS VSS ppolyf_u_1k r_width=2e-6 r_length=0.8e-6 m=8
XRD3 VSS VSS VSS ppolyf_u_1k r_width=0.8e-6 r_length=0.8e-6 m=4
.ends
